### PR TITLE
feat: new `bv_distrib` tactic

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

File: SSA/Projects/InstCombine/BvShift.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+
+@[simp]
+theorem xor_shiftRight_and_shiftLeft_distrib {x y z : BitVec w} {n : Nat}:
+    (z ^^^ x >>> n &&& y) <<< n = z <<< n ^^^ x &&& y <<< n := by
+  bv_auto
+
+@[simp]
+theorem and_shiftLeft_allOnes {x y : BitVec w} (n : Nat):
+  x &&& BitVec.allOnes w <<< n &&& y <<< n = x &&& y <<< n := by
+  bv_auto
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/BvShift.lean]:
```suggestion
    x &&& BitVec.allOnes w <<< n &&& y <<< n = x &&& y <<< n := by
  bv_auto
```

File: SSA/Projects/InstCombine/BvShift.lean [hunk 2]
```diff
@@ -0,0 +1,36 @@
...
+
+@[simp]
+theorem xor_shiftRight_and_shiftLeft_distrib {x y z : BitVec w} {n : Nat}:
+    (z ^^^ x >>> n &&& y) <<< n = z <<< n ^^^ x &&& y <<< n := by
+  bv_auto
+
+@[simp]
+theorem and_shiftLeft_allOnes {x y : BitVec w} (n : Nat):
+  x &&& BitVec.allOnes w <<< n &&& y <<< n = x &&& y <<< n := by
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/BvShift.lean]:
```suggestion
theorem and_shiftLeft_allOnes {x y : BitVec w} {n : Nat} :
  x &&& BitVec.allOnes w <<< n &&& y <<< n = x &&& y <<< n := by
```

File: SSA/Projects/InstCombine/BvShift.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+  bv_auto
+
+@[simp]
+theorem or_shiftLeft_allOnes {x y : BitVec w} (n : Nat):
+  x ||| BitVec.allOnes w <<< n &&& y <<< n = x ||| y <<< n := by
+  bv_auto
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/BvShift.lean]:
```suggestion
@[simp]
theorem or_shiftLeft_allOnes {x y : BitVec w} {n : Nat} :
    x ||| BitVec.allOnes w <<< n &&& y <<< n = x ||| y <<< n := by
  bv_auto
```

File: SSA/Projects/InstCombine/BvShift.lean [hunk 4]
```diff
@@ -0,0 +1,36 @@
...
+
+@[simp]
+theorem shiftRight_and_xor_shiftLeft_distrib {x y z : BitVec w} {n : Nat}:
+    (x >>> n &&& y ^^^ z) <<< n = x &&& y <<< n ^^^ z <<< n := by
+  bv_auto
+
+@[simp]
+theorem xor_shiftRight_and_shiftLeft_distrib {x y z : BitVec w} {n : Nat}:
+    (z ^^^ x >>> n &&& y) <<< n = z <<< n ^^^ x &&& y <<< n := by
+  bv_auto
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/BvShift.lean]:
```suggestion
@[simp]
theorem shiftRight_and_or_shiftLeft_distrib {x y z : BitVec w} {n : Nat} :
    (x >>> n &&& y ||| z) <<< n = x &&& y <<< n ||| z <<< n := by
  bv_auto

@[simp]
theorem or_shiftRight_and_shiftLeft_distrib {x y z : BitVec w} {n : Nat} :
    (z ||| x >>> n &&& y) <<< n = z <<< n ||| x &&& y <<< n := by
  bv_auto

@[simp]
theorem shiftRight_and_xor_shiftLeft_distrib {x y z : BitVec w} {n : Nat} :
    (x >>> n &&& y ^^^ z) <<< n = x &&& y <<< n ^^^ z <<< n := by
  bv_auto

@[simp]
theorem xor_shiftRight_and_shiftLeft_distrib {x y z : BitVec w} {n : Nat} :
    (z ^^^ x >>> n &&& y) <<< n = z <<< n ^^^ x &&& y <<< n := by
  bv_auto
```

**Review by tobiasgrosser — APPROVED** [review]

**Comment by tobiasgrosser** [comment]
Otherwise, I think this is good to go. Thank you.
